US07247734B2
3-(4-Methoxy-phenyl)-2,8-dimethyl-4H-chromene-4,7-diol (1 eq) was taken up in a 1:1 solution of EtOH:Hydrazine hydrate and heated under microwave conditions (120° C., 300 sec). The solution was concentrated in vacuo, residue quenched with cold water, extracted with ethyl acetate and purified by flash chromatography (1% MeOH-DCM). The yellow oil was then triturated with ether:hexane to give 4-[4-(4-methoxy-phenyl)-5-methyl-1H-pyrazol-3-yl]-2-methyl-benzene-1,3-diol as a solid.

reactant | 3-(4-Methoxy-phenyl)-2,8-dimethyl-4H-chromene-4,7-diol | 1 eq | COC1=CC=C(C=C1)C1=C(OC2=C(C(=CC=C2C1O)O)C)C | C18H18O4
reactant | Hydrazine hydrate | O.NN
solvent | EtOH | CCO | C2H6O
product | 4-[4-(4-methoxy-phenyl)-5-methyl-1H-pyrazol-3-yl]-2-methyl-benzene-1,3-diol | COC1=CC=C(C=C1)C=1C(=NNC1C)C1=C(C(=C(C=C1)O)C)O | C18H18N2O3
